US04232039
(b) (5-Chloro-4-cyclohexyl-2-methoxyphenyl)-acetic acid methylester
The (4-cyclohexyl-2-methyoxyphenyl)-acetic acid methylester obtained as above is dissolved in 500 ml of methylene chloride, and 5.5 ml of sulphuryl chloride and 200 mg of silica gel are added. After stirring at 22° for 60 hours, there is substantial evaporation, and the residue is chromatographed on 300 g of silica gel. A homogeneous product is extracted with methylene chloride.

reactant | (4-cyclohexyl-2-methyoxyphenyl)-acetic acid methylester | COC(CC1=C(C=C(C=C1)C1CCCCC1)OC)=O | C16H22O3
reactant | sulphuryl chloride | 5.5 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | (5-Chloro-4-cyclohexyl-2-methoxyphenyl)-acetic acid methylester | COC(CC1=C(C=C(C(=C1)Cl)C1CCCCC1)OC)=O | C16H21ClO3
